US04227000
2-(2-Thiazolylmethylthio)ethylamine (2.00 g) and 2-nitroamino-5-(3-methoxybenzyl)-4-pyrimidone (1.58 g) were fused together at 130° for 4 hours. The mixture was triturated with hot water and the residue was recrystallised from 2-propanol to give 2-[2-(2-thiazolylmethylthio)ethylamino]-5-(3-methoxybenzyl)-4-pyrimidone (0.93 g), m.p. 122°-4°. A sample was treated with hydrogen chloride in ethanol and after recrystallision from isopropanol/methanol it had m.p. 104°-6° and gave analytical data corresponding to a hemihydrochloride.

reactant | 2-(2-Thiazolylmethylthio)ethylamine | 2.00 g | S1C(=NC=C1)CSCCN | C6H10N2S2
reactant | 2-nitroamino-5-(3-methoxybenzyl)-4-pyrimidone | 1.58 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(=CC=C1)OC | C12H12N4O4
product | 2-[2-(2-thiazolylmethylthio)ethylamino]-5-(3-methoxybenzyl)-4-pyrimidone | 0.93 g | S1C(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(=CC=C1)OC | C18H20N4O2S2
